US05073641
2-[2-[(2,3-DIMETHYLPHENYL)AMINO]-BENZOYLOXY]-N,N-DIMETHYLACETAMIDE
A mixture of mefenamic acid (2.41 g, 0.01 mole), 2-chloro-N,N-dimethylacetamide (1.6 g, 0.013 mole), triethylamine (1.6 ml, 0.011 mole) and sodium iodide (0.15 g, 0.001 mole) in N,N-dimethylformamide (10 ml) was stirred at 90° C. for 2 h. Water (50 ml) was added and the mixture allowed to stand at 4° C. for 5 h. The title compound was isolated by filtration, washed with water and recrystallized from ethanol-water (3.0 g, 92%). Mp 85°-86° C.

reactant | mefenamic acid | 0.01 mole, 2.41 g | CC=1C=CC=C(C1C)NC=2C=CC=CC2C(=O)O | C15H15NO2
reactant | 2-chloro-N,N-dimethylacetamide | 0.013 mole, 1.6 g | ClCC(=O)N(C)C | C4H8ClNO
reactant | triethylamine | 0.011 mole, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 0.001 mole, 0.15 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | 50 ml | O | H2O
product | 2-[2-[(2,3-DIMETHYLPHENYL)AMINO]-BENZOYLOXY]-N,N-DIMETHYLACETAMIDE | CC1=C(C=CC=C1C)NC1=C(C(=O)OCC(=O)N(C)C)C=CC=C1 | C19H22N2O3
